US06749988B2
Pyrrolidine, 71.1 g, was added to 86.1 g of methyl acrylate at 20° C. and reacted for 24 hours. Purification by vacuum distillation yielded 149 g of methyl 3-(1-pyrrolidinyl)propionate, designated [B-17] (boiling point: 74° C./800 Pa, yield: 95%).

reactant | Pyrrolidine | N1CCCC1 | C4H9N
reactant | methyl acrylate | 86.1 g | C(C=C)(=O)OC | C4H6O2
product | methyl 3-(1-pyrrolidinyl)propionate | 149 g, yield: 95% | N1(CCCC1)CCC(=O)OC | C8H15NO2
